US06797823B1
N-{2-Chloro-4-[(6,7-dimethoxy-4-quinolyl) oxy]phenyl}-N′-(2-methoxyphenyl)urea
2-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (100 mg) was dissolved in chloroform(10 ml), and 2-methoxyphenyl isocyanate (54 mg) was added to the solution. The mixture was stirred at 600° C. overnight. Methanol was added to the reaction solution, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/acetone (6/4) to give 111 mg (yield 77%) of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 100 mg | ClC1=C(N)C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
reactant | 2-methoxyphenyl isocyanate | 54 mg | COC1=C(C=CC=C1)N=C=O | C8H7NO2
reactant | Methanol | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{2-Chloro-4-[(6,7-dimethoxy-4-quinolyl) oxy]phenyl}-N′-(2-methoxyphenyl)urea | 111 mg, yield 77% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=O)NC1=C(C=CC=C1)OC | C25H22ClN3O5
